US05451601
0,766 g of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide is added to a solution, cooled to 10° C., of 1 g of (3aR,4S,7aR)-7,7-diphenyl-4-perhydroisoindolol, 0.97 g of 2-(3-dimethylaminopropoxy)phenylacetic acid and 0.05 g of 1-hydroxybenzotriazole in 50 cm3 of dichloromethane. The reaction mixture is stirred for 90 minutes 20° C. and then washed twice with 50 cm3 of water and with 50 cm3 of a saturated solution of sodium chloride. The organic phase is dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is chromatographed on a silica gel column (particle size 0.2-0.063 mm, diameter 2.9 cm, height 23 cm), eluting under a nitrogen pressure of 0.7 bar with 1,2-dichloroethane and methanol mixtures (1 liter at 90/10 by volume and 1.5 liters at 70/30 by volume) and collecting fractions of 25 cm3. Fractions 10 to 84 are pooled and concentrated to dryness under reduced pressure (2.7 kPa) to give 1.1 g of (3aR,4S,7aR)-2-{[2-(3-dimethylaminopropoxy)phenyl]-acetyl}-7,7-diphenyl-4-perhydroisoindolol in the form of a cream-colored meringue.

reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide | 0,766 g | CN(CCCN=C=NCC)C | C8H17N3
reactant | (3aR,4S,7aR)-7,7-diphenyl-4-perhydroisoindolol | 1 g | C1(=CC=CC=C1)C1(CC[C@@H]([C@H]2CNC[C@@H]12)O)C1=CC=CC=C1 | C20H23NO
reactant | 2-(3-dimethylaminopropoxy)phenylacetic acid | 0.97 g | CN(CCCOC1=C(C=CC=C1)CC(=O)O)C | C13H19NO3
reactant | 1-hydroxybenzotriazole | 0.05 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dichloromethane | 50 cm3 | ClCCl | CH2Cl2
product | (3aR,4S,7aR)-2-{[2-(3-dimethylaminopropoxy)phenyl]-acetyl}-7,7-diphenyl-4-perhydroisoindolol | 1.1 g | CN(CCCOC1=C(C=CC=C1)CC(=O)N1C[C@H]2C(CC[C@@H]([C@H]2C1)O)(C1=CC=CC=C1)C1=CC=CC=C1)C | C33H40N2O3
